US07405230B2
Methyl N-(3-hydroxy-4-methoxyphenyl)-N-(3-pyridylmethyl)-3-aminobenzoate
N-(3-Hydroxy-4-methoxyphenyl)-N-(3-pyridylmethyl)-3-aminobenzoic acid (7.0 g, 20.0 mmol) was dissolved in 210 mL of MeOH and 2.8 g (36.0 mmol) of acetyl chloride was added. The material was warmed to reflux with stirring overnight. The solution was concentrated in vacuo and then diluted with 200 mL of DCM and washed with saturated NaHCO3, brine, dried (Na2SO4), and concentrated to give 6.85 g (84% yield) of the desired target.

reactant | N-(3-Hydroxy-4-methoxyphenyl)-N-(3-pyridylmethyl)-3-aminobenzoic acid | 20.0 mmol, 7.0 g | OC=1C=C(C=CC1OC)N(C=1C=C(C(=O)O)C=CC1)CC=1C=NC=CC1 | C20H18N2O4
reactant | acetyl chloride | 36.0 mmol, 2.8 g | C(C)(=O)Cl | C2H3ClO
solvent | MeOH | 210 mL | CO | CH4O
product | Methyl N-(3-hydroxy-4-methoxyphenyl)-N-(3-pyridylmethyl)-3-aminobenzoate | 84% yield | OC=1C=C(C=CC1OC)N(C=1C=C(C(=O)OC)C=CC1)CC=1C=NC=CC1 | C21H20N2O4
